US06884868B1
To a suspension of 4-(4-chlorophenyl)-4-hydroxypiperidine (8 g) and triethylamine (5.8 ml) in dichloromethane (80 ml) was added di-tert-butyldicarbonate (9.07 g) under ice-cooling. The suspension was then stirred for 5 hours at ambient temperature. The reaction mixture was evaporated under reduced pressure. The residue was diluted with ethyl acetate and washed with water, washed with brine, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica using n-hexane/ethyl acetate (3:1) as the elution to give 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (11.76 g).

reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 8 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | triethylamine | 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 9.07 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 11.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C16H22ClNO3
